simulator lang=spectre
global 0
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=bjt_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=dio_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=res_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=mim_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=var_tt

subckt symmetry_amp VINN VINP VOUT IBIAS VDD VSS
NM1 (VOUT net57 VSS VSS) n18 w=8.6e-07 l=2.3e-07 m=1 //// *Load* *gm1* ``NM0``
NM0 (net57 net57 VSS VSS) n18 w=8.6e-07 l=2.3e-07 m=1 //// *Load* *gm1* ``NM1``
NM18 (net61 VINP net60 VSS) n18 w=1.31e-06 l=4.6e-07 m=1 //// *Input* *gm1* ``NM17``
NM17 (net67 VINN net60 VSS) n18 w=1.31e-06 l=4.6e-07 m=1 //// *Input* *gm1* ``NM18``
NM22 (IBIASP2 IBIAS net69 VSS) n18 w=2.2e-07 l=1.8e-07 m=1 ////Bias Transistor, should not change
NM5 (IBIAS2 IBIAS net70 VSS) n18 w=2.2e-07 l=1.8e-07 m=1 ////Bias Transistor, should not change
NM19 (net60 IBIAS2 VSS VSS) n18 w=1.13e-06 l=7e-07 m=1 //// *Current tail* *gm1*
NM23 (net69 IBIAS2 VSS VSS) n18 w=2.2e-07 l=1.8e-07 m=1 ////Bias Transistor, should not change
NM6 (net70 IBIAS2 VSS VSS) n18 w=2.2e-07 l=1.8e-07 m=1 ////Bias Transistor, should not change
R0 (IBIAS IBIAS2) resistor r=100000.00000000001////Bias Resistor, should not change
R1 (IBIASP1 IBIASP2) resistor r=100000.00000000001////Bias Resistor, should not change
PM1 (VOUT net61 VDD VDD) p18 w=1.2e-06 l=8.4e-07 m=1 //// *Load* *gm1* ``PM0``
PM0 (net57 net67 VDD VDD) p18 w=1.2e-06 l=8.4e-07 m=1 //// *Load* *gm1* ``PM1``
PM11 (net68 IBIASP1 VDD VDD) p18 w=2.2e-07 l=1.8e-07 m=1 ////Bias Transistor, should not change
PM19 (net67 net67 VDD VDD) p18 w=1.2e-06 l=8.4e-07 m=1 //// *Load* *gm1* ``PM0``
PM18 (net61 net61 VDD VDD) p18 w=1.2e-06 l=8.4e-07 m=1 //// *Load* *gm1* ``PM0``
PM10 (IBIASP1 IBIASP2 net68 VDD) p18 w=2.2e-07 l=1.8e-07 m=1 ////Bias Transistor, should not change
ends symmetry_amp


            V0 (VSS 0) vsource dc=0 type=dc
            V1 (VDD 0) vsource dc=1.8 type=dc
            C0 (VOUT VSS) capacitor c=2e-12
            I0 (VDD IBIAS) isource dc=2e-06 type=dc
            V2 (VINP 0) vsource dc=0.9 type=dc
            IPRB0 (VINN VOUT) iprobe
            I1 (VINN VINP VOUT IBIAS VDD VSS) symmetry_amp
            